US06492383B1
(1H-Indol-5-yl)-(6-{4-[(2-morpholin-4-yl-ethylamino)-methyl]-phenyl}-thieno[3,2-d]pyrimidin-4-yl)-amine
The title compound was prepared from N-(2-aminoethyl)morpholine and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 100-111° C.; LC-MS: 485 (MH+); HPLC RT: 4.23 minutes.

reactant | N-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | (1H-Indol-5-yl)-(6-{4-[(2-morpholin-4-yl-ethylamino)-methyl]-phenyl}-thieno[3,2-d]pyrimidin-4-yl)-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)CNCCN2CCOCC2 | C27H28N6OS
